US08664230B2
A suspension of 3-amino-6-chloropicolinamide (1.67 g, 9.74 mmol) in triethyl orthoformate (73.0 mL) was refluxed for 3 hours. The reaction mixture was cooled to room temperature, and then filtered. The filtercake was dried under vacuum to give 6-chloropyrido[3,2-d]pyrimidin-4(1H)-one (1.45 g, 82%) as a brown solid. 1H-NMR (CDCl3, Varian 400 MHz) δ 7.66 (1H, d, J=8.4 Hz), 8.00 (1H, s), 8.03 (1H, d, J=1.2 Hz), 12.57 (1H, brs).

reactant | 3-amino-6-chloropicolinamide | 9.74 mmol, 1.67 g | NC=1C(=NC(=CC1)Cl)C(=O)N | C6H6ClN3O
reactant | triethyl orthoformate | 73.0 mL | C(OCC)(OCC)OCC | C7H16O3
product | 6-chloropyrido[3,2-d]pyrimidin-4(1H)-one | 1.45 g, 82% | ClC=1C=CC=2NC=NC(C2N1)=O | C7H4ClN3O
